US07935688B2
(1) Synthesis of 4-{4-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-2-methyl-phenylethynyl}-tetrahydro-thiopyran-4-ol
n-Butyllithium (2.71 M solution in hexane, 2.8 mL, 7.6 mmol) was added to a solution of 4-[1-ethyl-1-(4-ethynyl-3-methyl-phenyl)-propyl]-2-methyl-phenol (Example 1-(3); 1 g, 3.4 mmol) in tetrahydrofuran (17 mL) in a nitrogen atmosphere at 0° C. Then, a solution of 4-oxothiane (0.4 g, 3.4 mmol) in tetrahydrofuran (2 mL) was added to the reaction mixture, which was further stirred at 0° C. for 30 minutes. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane:ethyl acetate=2:1) to give the target compound (1.04 g, 74%).

reactant | n-Butyllithium | 7.6 mmol, 2.71 M, 2.8 mL | C(CCC)[Li]
reactant | 4-[1-ethyl-1-(4-ethynyl-3-methyl-phenyl)-propyl]-2-methyl-phenol | 3.4 mmol, 1 g | C(C)C(CC)(C1=CC(=C(C=C1)C#C)C)C1=CC(=C(C=C1)O)C | C21H24O
reactant | 4-oxothiane | 3.4 mmol, 0.4 g | O=C1CCSCC1 | C5H8OS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 17 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 4-{4-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-2-methyl-phenylethynyl}-tetrahydro-thiopyran-4-ol | 1.04 g, 74% | C(C)C(CC)(C1=CC(=C(C=C1)O)C)C1=CC(=C(C=C1)C#CC1(CCSCC1)O)C | C26H32O2S
